Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
PCP: none

CC: shortness of breath; sent from PCP office for HCT of 14
 
Major Surgical or Invasive Procedure:
EGD
colonoscopy

 
History of Present Illness:
Ms. ___ is a ___ F with no notable medical history. she last 
saw a physician ___ ___.

She dates all of her symptoms to the death of her mother 
approximately ___ years ago. Since that time, she has noted 
progressive dysponea on exertion where she is no longer able to 
complete her daily activities. For example, she was able to 
attend her ___ birthday party in ___ but could not dance. On 
Labor Day of this year she made it to the beach but could not 
carry heavy objects without difficulty, and she currently cannot 
walk across the room without dyspnea.

Over the last 6 months she has also noted a chronic dry mouth, 
occasional chest pain (substernal, not always with exertion), a 
chronic cough, occasional wheezes, an intolerance to heat, and 
___ pillow orthopnea. She has also battled with depression over 
the past ___ years but no current symptoms. No fevers, chills, 
night sweats, loss of appetite, abdominal pain, blood in stool, 
changes in bowel habits, vaginal discharge (menopause at age 
___, rashes, or joint symptoms. She takes no medications, herbs, 
or supplements.

Her symptoms seemed to be worse over the last 2 weeks. In 
addition, she noted puffiness of her eyes, hands, and legs. She 
thinks she put on 15lbs in 2 weeks.

For the above symptoms she presented to Urgent Care. Her initial 
labs returned a low HCT and she was referred to the ED.

Vitals on arrival to ___ ED: T 98.7, P 83, BP 170/100, 95% on 
RA. Her evaluation in the ED was notable for a HCT of 15, guaiac 
negative stool, and a CXR with a reported LLL infiltrate. In the 
ED she received levofloxacin and 1 unit of pRBCs.

ROS: included in HPI. Other systems reviewed in detail and 
otherwise negative.
 
Past Medical History:
None. She had a home birth for her 1 child.
 
Social History:
___
Family History:
her father died of an MI and her mother died of a stroke.
 
Physical Exam:
Vital Signs: T 98.6, P 62, BP 148/90, 96% on RA.

Physical examination:
- Gen: Well-appearing in NAD.
- HEENT: Conj/sclera/lids normal, PERRL, EOM full, and no 
nystagmus. Hearing grossly normal bilaterally. Sinuses 
non-tender. Nasal mucosa and turbinates normal. Oropharynx clear 
w/out lesions.
- Neck: Supple.
- Chest: Normal respirations and breathing comfortably on room 
air. Lungs clear to auscultation bilaterally.
- CV: PMI non-palable. Regular rhythm. Normal S1, S2. II/VI HSm 
at base. Cannot visualize JVP. 
- Abdomen: Obese. Normal bowel sounds. Nontender. Unable to 
appreciate any organomegaly.
- Extremities: ___ ankle edema to above shins.
- MSK: Joints with no redness, swelling, warmth, tenderness. She 
has some pain when moving her neck to the left.
- Skin: No lesions, bruises, rashes.
- Neuro: Alert, oriented x3. Good fund of knowledge. Able to 
discuss current events and memory is intact. CN ___ intact. 
Speech and language are normal. 
- Psych: Appearance and affect all normal. Her behavior is 
normal as well other than refusing to shake hands with me as she 
is a self-described "germ-a-phobe."
 
Pertinent Results:
Pre-Admission Laboratory Studies:
 - ___ 05:20PM   UREA N-12 CREAT-0.7 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-109* TOTAL CO2-25 ANION GAP-10 
ALT(SGPT)-9 TOT BILI-0.9  TSH-2.4
 - ___ 05:20PM   CHOLEST-94 TRIGLYCER-47 HDL CHOL-44 
CHOL/HDL-2.1 LDL(CALC)-41
 - ___ 05:20PM   %HbA1c-4.8 eAG-91
 - WBC-5.5 RBC-2.46*# HGB-3.3*# HCT-14.2*# MCV-58*# MCH-13.5*# 
MCHC-23.4*# RDW-21.4* PLT COUNT-162

Admission Laboratory Studies:
 - ___ 10:30PM   GLUCOSE-99 UREA N-15 CREAT-0.7 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-107 TOTAL CO2-22 ANION GAP-14 
ALT(SGPT)-13 AST(SGOT)-20 ALK PHOS-109* cTropnT-<0.01
 - ___ 10:30PM   WBC-6.4 (NEUTS-71.6* ___ MONOS-4.5 
EOS-1.3 BASOS-1.1) RBC-2.55* HGB-3.6* HCT-15.0* MCV-59* 
MCH-14.0* MCHC-24.0* RDW-21.8* PLT COUNT-208
 - ___ 10:30PM   ___ PTT-25.2 ___
 - ___ 01:00AM URINE  COLOR-Yellow APPEAR-SlHazy SP 
___ BLOOD-TR NITRITE-NEG PROTEIN-30 GLUCOSE-NEG 
KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-MOD ___ 
WBC->50 BACTERIA-MOD YEAST-NONE ___ TRANS ___
.
___, titer 1:320
.
ECG: SR at 91 with normal axis and intervals. No pathologic Q 
waves. No ECG available for comparison.
.
ECHO ___ left atrium is mildly dilated. Left ventricular 
wall thickness, cavity size, and global systolic function are 
normal (LVEF>55%). Due to suboptimal technical quality, a focal 
wall motion abnormality cannot be fully excluded. The estimated 
cardiac index is normal (>=2.5L/min/m2). Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). The right ventricular cavity is dilated with mild 
global free wall hypokinesis. The aortic valve leaflets are 
mildly thickened (?#). There is no aortic valve stenosis. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Physiologic mitral regurgitation is seen 
(within normal limits). There is moderate to severe pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
.
IMPRESSION: Suboptimal image quality. Moderate to severe 
pulmonary hypertension. Right ventricular dilation and mild 
dysfunction. Preserved global left ventricular systolic 
function. Elevated estimated left ventricular filling pressures.
.
cxr-IMPRESSION:   
Hiatal hernia with possible right hilar lymphadenopathy. This 
can be compared to prior radiographs, if available, otherwise a 
chest CT may be obtained for further evaluation 
.
ct chest-IMPRESSION: 
1. No perihilar mass or lymphadenopathy. The radiographic 
appearance of the 
hila is due to the configuration of otherwise normal-appearing 
pulmonary 
vessels. 
2. Large hiatal hernia with very tortuous aorta. 
3. Mild small airways disease. 
.
CT neck-FINDINGS: No previous images. C7 is not optimally 
visualized on the views 
presented. There is some anterolisthesis of C6 with respect to 
C7.  
Intervertebral disc space narrowing is seen at C5-C6 and to a 
lesser extent, 
and C6-C7, consistent with degenerative changes at these levels. 
No evidence 
of prevertebral soft tissue swelling. 
.
shoulder xr-IMPRESSION: 
1. No fracture or dislocation. 
2. Bilateral degenerative changes in the acromioclavicular 
joint, and mild to 
moderate degenerative changes in the left glenohumeral joint. 
3. Large hiatal hernia. 
.
EGD-Impression: Irregular Z-line with a slight tongue of salmon 
colored mucosa. Tortuous esophagus noted. (biopsy)
Gastric antral vascular ectasia noted without active bleeding. 
(thermal therapy)
Normal mucosa in the duodenum (biopsy)
Otherwise normal EGD to third part of the duodenum 
Recommendations: Potential bleeding source from GAVE noted. S/p 
APC. Biopsies performed of duodenum. Please awaiy biopsy 
results. Please take Protonix BID, carafate slurry 1gram BID. 
Outpatient EGD in ___ weeks for repeat APC with anesthesia. 
Continue with colonoscopy. 
Additional notes: The attending was present for the entire 
procedure. 
.
Colonoscopy-Recommendations: Follow-up biopsy results
Repeat colonoscopy for colon cancer screening in ___ years given 
fair bowel preparation 
Additional notes: The procedure was performed by the fellow and 
the attending. The attending was present for the entire 
procedure. The patient's reconciled home medication list is 
appended to this report. The efficiency of colonoscopy in 
detecting lesions was discussed with the patient and it was 
pointed out that a small percentage of polyps and other lesions 
including colon cancer can be missed with the test 
.

 
Brief Hospital Course:
Assessment/Plan:  
___ year old woman admitted with reports of DOE, leg swelling, 
found to have a HCT of 14 with iron deficiency anemia. 
(transfused 4units prbcs, guaiac negative, EGD showing GAVE. 
ECHO showing severe Pulm HTN with RV dilation.  
.  
# Iron deficiency anemia/GAVE: Ferritin 1.7, iron 8. REtic 3%. 
Hemolysis labs were negative, TTG negative. Pt was given 4 units 
of PRBCs. EGD found GAVE and pt was treated with argon beam and 
started on BID PPI and sucralfate. Pt's HCT has remained stable. 
Last HCT 27.6 and there were no signs of active bleeding. Pt was 
guaiac negative. Pt was started on PO iron. Discussed diagnosis 
and treatment plan with the patient. She will have GI follow up 
in 2 weeks time with repeat EGD in ___ weeks with repeat Argon 
beam. A benign appearing polyp was found on colonoscopy and 
biopsy was taken. Pt will follow up results at ___. 
Malignancy work up negative thus far. Rheumatology w/u showed 
___ 1:320 and rheumatology was consulted for possible 
rheumatologic condition such as system sclerosis that could 
cause GAVE, Pulm HTN, and arthralgia. See below. Pt should have 
serial HCt's monitored in the outpatient setting.
.  
# Pulmonary hypertension: Cardiology was consulted and feels 
that that pulm htn is likely secondary to chronic mild hypoxia 
from anemia and sleep apnea. Cardiology suggested a repeat echo 
in a few weeks time to eval for changes after treatment for 
anemia and possible sleep apnea (with sleep study and possible 
bypap). If findings are persistent pt could have a cardiology 
follow up arranged. Her Hbaic, lipid panel, LFTs, Rfactor were 
all negative. Pt did not require any supplement oxygen. Pt 
should have a sleep study arranged as an outpatient.
.  
# acute Congestive systolic Heart Failure, right sided: Pt 
presented with volume overload and peripheral edema (albumin, 
TSH, Lfts and renal fxn were normal). Echo showed R.sided heart 
failure/pulm HTn. This was thought to be related to pulmonary 
HTN as above. Pt was given IV lasix with good effect. Weight 
dropped 6lbs and her volume status has improved. Pt was not 
diuresed in last 2 days prior to discharge. She was not 
discharged on lasix. She can continue to have her volume status 
monitored in the outpatient setting.  She was placed on a low 
sodium diet and asked to continue this in the outpatient 
setting. Nutrition was consulted for education. 
.  
# auto immune process?/Mild arthralgia and stiffness in the neck 
and shoulders. Plain films ordered and show degenerative 
changes. CT of the neck shows degenerative change. Pt also 
reported "Creaky" hips and knees. This was all thought to be 
related to OA. RF was negative, CK normal, ESR was normal. 
However, ___ returned positive with titer 1:320 and rheumatology 
was consulted for further eval as above in the event that pt's 
current presentation could be related to an autoimmune process 
(pulm HTN, Gave, arthralgias). Pt was given tylenol for pain 
control. She will have the remained of her rheumatologic panel 
followed up as an outpatient. 
.  
# Depression: Pt reported significant depression over last ___ 
years after death of her mother. She denies SI. Pt also had 
difficulty with anxiety and insomnia this admission. SW was 
consulted and followed the patient. Discussed treatment options 
with the patient including therapy and medications. Pt declines 
medications at this time. She would like to continue social work 
and therapy in the outpatient setting.
.  
# 50 lb weight loss-patient reported that this was intentional 
over ___ years. CXR, Chest CT negative for malignancy. Abd and 
Pelvis CT scan were negative for malignancy as was ___. Pt 
urged and encouraged to continue age appropriate cancer 
screening such as mammogram, pap smear and pelvic exam in the 
outpatient setting. She was started on vitamin D and Calcium. 
.
#hiatial hernia-Pt noticed the have this on imaging. She does 
not have symptoms of GERD or any abominal pain or other 
symptoms. Imaging did not show incarceration. Pt will take a PPI 
for the above. She can continue to follow up as an outpatient as 
needed or if symptoms develop.
.  
FEN: low sodium, heart healthy. 
.  
 
Medications on Admission:
She takes no medications, herbs, or supplements.
 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
2. sucralfate 1 gram Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*
3. ferrous sulfate 300  mg (60 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Calcium 500 With D 500 mg(1,250mg) -400 unit Tablet Sig: One 
(1) Tablet PO twice a day: do not take at the same time as iron 
supplement.
Disp:*60 Tablet(s)* Refills:*2*
5. Outpatient Physical Therapy
Range of motion and strengthening of neck, shoulders, knees, 
hips. 
6. Outpatient Lab Work
Please have your blood count checked on ___ with your 
PCP. Dr. ___. Phone ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
iron deficiency anemia
pulmonary hypertension
acute R.sided systolic heart failure
weight loss
GAVE (gastic antral vascular ectasia)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with reports of shortness of breath, leg 
swelling and weight loss. 
1.You were also found to have a severe anemia iron deficiency 
anemia that was treated with blood transfusions. This likely 
explained your feelings of tiredness and shortness of breath 
with activity. You were evaluated by the gastroenterology 
service and had an endoscopy that shows you have abnormal blood 
vessels in your stomach (GAVE). You had a procedure to attempt 
and correct these blood vessels. This is likely the cause of 
your anemia. You were started on a medication to lower stomach 
acid (omeprazole) to take twice a day and a another 
medication-sulcralfate to protect your stomach.  You will need 
to follow up with the gastroenterology service in 2 weeks. In 
addition, you will need another endoscopy in ___ weeks for 
repeat treatment. You colonoscopy showed a benign appearing 
polyp. A biopsy was taken the results are still pending. You 
should follow up these results at your gastroenterology 
appointment. You will need to have another colonoscopy in ___ 
years' time.
.
2.You were also found to have high blood pressure in the blood 
vessels of your lungs and evidence of right sided heart failure. 
For this, you were evaluated by the cardiology service and had a 
cardiac echo. These findings were thought to be related to a 
chronic state of low blood oxygen from your anemia and possibly 
sleep apnea. 
A) you will need to have a repeat echo in a few weeks time. This 
can be arranged by your PCP. Depending on the results, you may 
need a cardiology follow up.
B) You will need to have a sleep study arranged to evaluate for 
possible sleep apnea.
.
3.You should continue to work on your feelings of depression and 
anxiety with your PCP and social workers after you leave the 
hospital. You declined medication at this time. You may call 
___ to set up an appointment with a social worker and 
your PCP can help to arrange for further follow up if needed.
.
4)You should be sure to have a mammogram, pap smear and pelvic 
exam for regular cancer screening. Your PCP can help to arrange 
this appointments.
.
5) Rheumatology will follow up the rest of your labs. If 
anything turns out positive, one of the rheumatologists will 
call you to arrange for a follow up appointment.
.
6)Your CT scan of the abdomen and pelvis was negative except for 
showing a large hiatial hernia. You are taking a medication for 
stomach acid for this. You can further discuss this with your 
PCP if needed or you develop symptoms.
.
7) You reported pain in your neck, shoulders, and knees. Your 
imaging tests show evidence of osteoarthritis. You may take 
tylenol for pain related to these joints and may pursue physical 
therapy for strength training and increased mobility. You were 
started on calcium and vitamin D for your bones.
.
Medication changes:
1.omeprazole 20mg BID
2.sucralfate 1gram BID
3.iron 325mg daily
4.calcium and vitamin D
.
Please follow up with the appointments below and take all of 
your medications as prescribed.
 
Followup Instructions:
___